US08039460B2
Step A: tert-Butyl [(3R,6S)-2-cyano-6-(2,3-difluorophenyl)azepan-3-yl]carbamate
A solution of tert-butyl [(3R,6S)-6-(2,3-difluorophenyl)-2-oxoazepan-3-yl]carbamate (0.67 g, 1.97 mmol) in tetrahydrofuran (10 mL) was slowly added to a solution of zirconocene chloride hydride (0.76 g, 2.95 mmol) in tetrahydrofuran (5.0 mL) at −20° C. After 15 min, the mixture was allowed to warm to ambient temperature. After 3 h, trimethylsilanecarbonitrile (1.31 mL, 9.84 mmol) was added. After 16 h, saturated aqueous sodium bicarbonate was added and the mixture was extracted with dichloromethane (3×). The combined organic extracts were washed with Rochelle's salt (1.0 M in water), brine, dried over sodium sulfate, filtered, and concentrated. MS 352.1 (M+1).

reactant | tert-butyl [(3R,6S)-6-(2,3-difluorophenyl)-2-oxoazepan-3-yl]carbamate | 1.97 mmol, 0.67 g | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(NC1)=O)NC(OC(C)(C)C)=O | C17H22F2N2O3
reactant | trimethylsilanecarbonitrile | 9.84 mmol, 1.31 mL | C[Si](C#N)(C)C | C4H9NSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
catalyst | zirconocene chloride hydride | 2.95 mmol, 0.76 g | [H-].[Cl-].[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Zr+2]
product | tert-Butyl [(3R,6S)-2-cyano-6-(2,3-difluorophenyl)azepan-3-yl]carbamate | C(#N)C1NC[C@@H](CC[C@H]1NC(OC(C)(C)C)=O)C1=C(C(=CC=C1)F)F | C18H23F2N3O2
